US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (200 mg, 0.36 mmol) was dissolved in MeOH and a catalytic amount of Palladium on Carbon (10%) was added. The round bottom flask in which resided the resulting solution was evacuated and backfilled with hydrogen. The reaction was stirred under the hydrogen atmosphere overnight. The mixture was carefully filtered through a Celite® plug and concentrated to afford crude product. The crude product was purified by silica gel chromatography (hexanes/ethyl acetate system) to afford N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-phenylacetamide (142 mg, 95%).

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.36 mmol, 200 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C26H25ClN2O3
solvent | MeOH | CO | CH4O
catalyst | Palladium on Carbon | [Pd] | Pd
product | N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-phenylacetamide | 142 mg, 95% | COC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=CC=C2)C)C=C1 | C26H26N2O3
